US05424295
2-Amino-6-methoxypurine (prepared by nucleophilic displacement of the chlorine group on 2-amino-6-chloropurine (Sigma Chemicals, St. Louis, Mo.) by methanol with sodium hydride in tetrahydrofuran) (6.4 mmoles, 1.05 g) was combined with 35 ml of a uracil arabinoside solution (7.04 mmoles, 1.75 g) in 10 mM potassium phosphate and 7% n-propanol (v/v). The pH was adjusted to 6.75. Purified purine nucleoside phosphorylase (18000 units) and uridine phosphorylase (1020 units) were added and the solution incubated at 37° C. After 26 days the reaction was filtered and the filtrate chromatographed on a column of Dowex-1-formate resin (2×7 cm) after adjusting the pH to 10.5 with concentrated ammonium hydroxide. The column was eluted with 7% n-propanol/water (v/v) and fractions containing product were combined and solvent removed in vacuo. The residue was extracted with 25 ml of water and the filtrate separated from the solids by centrifugation. The supernatant upon standing at ambient temperature formed crystals of 9-β -D-arabinofuranosyl-2-amino-6-methoxy-9H-purine which after drying in vacuo, yielded 0.327 g of product. NMR and mass spectrometry were consistent with the structure. Anal. Calcd. for C11H15N5O5 : Calcd: C, 44.44; H, 5.09; N, 23.56. Found: C, 44.49; H, 5.13; N, 23.52.

reactant | 2-Amino-6-methoxypurine | NC1=NC(=C2NC=NC2=N1)OC | C6H7N5O
reactant | sodium hydride | [H-].[Na+]
reactant | uracil arabinoside | 7.04 mmoles, 35 ml, 1.75 g | C1=CN(C(=O)NC1=O)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | potassium phosphate | 10 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | n-propanol | C(CC)O | C3H8O
solvent | methanol | CO | CH4O
product | 9-β -D-arabinofuranosyl-2-amino-6-methoxy-9H-purine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C2=NC(=NC(=C2N=C1)OC)N | C11H15N5O5
